* C:\Users\raipr\OneDrive - International Institute of Information Technology\2022H2\Gitwork\EW2_Audio_Amp\BJT_Diff_amp_activeLoad2.asc
Q2 N003 N005 N008 0 BC547B
Q1 N002 N004 N006 0 BC547B
R1 N007 N006 1k
R2 N008 N007 1k
QB N007 N010 0 0 BC547B
QA N010 N010 0 0 BC547B
Rref N010 N009 1k
V2 N001 0 10
Vin+ N004 0 SINE(5 10m 50) AC 1 0
Vin- N005 0 SINE(5 -10m 50) AC 1 0
Q3 N002 N002 N001 0 BC557B
Q4 N003 N002 N001 0 BC557B
V1 N009 0 5
C1 Out+ N003 100µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\raipr\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.tran 500m
.ac dec 500 1 100Meg
.backanno
.end
