* C:\Users\rohan\OneDrive - International Institute of Information Technology (1)\Sem6\EW-2\aduio_amp\EW2_Audio_Amp\final_class_A.asc
Q1 N002 N003 OUT 0 BC547B
V1 N001 0 15
R1 N001 N002 10
V2 N003 0 SINE(0 10 10K) AC 1
R5 OUT 0 1k
Q2 OUT N004 N005 0 BC547B
Q3 N004 N004 N005 0 BC547B
V3 0 N005 15
R2 0 N004 500
.model NPN NPN
.model PNP PNP
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.bjt
;dc V2 -40 40 0.1
;ac dec 100 1 100MEG
.tran 1m
.backanno
.end
