* C:\Users\rohan\OneDrive - International Institute of Information Technology (1)\Sem6\EW-2\aduio_amp\EW2_Audio_Amp\last_try.asc
Q2 N003 N009 N018 0 BC547B
Q1 N002 N008 N016 0 BC547B
R1 N017 N016 220
R2 N018 N017 220
QB N017 N021 V- 0 BC547B
QA N021 N021 V- 0 BC547B
Rref N021 N020 27k
Vin+ N013 N019 SINE(0 15m 20k) AC 1 0
V1 N020 0 13
C2 N008 N013 100µ
R3 N008 0 100k
R4 V+ N008 100k
R5 V+ N009 100k
R6 N009 0 100k
Q5 N004 N011 N015 0 BC547B
R7 V+ N004 6.8k
C1 N011 N014 100µ
C5 N010 N003 100µ
R15 N015 V- 330
R9 N004 N011 1Meg
C3 N009 N019 100µ
V4 V- 0 -13
V2 V+ 0 13
Q3 N002 N002 V+ 0 BC557B
Q4 N003 N002 V+ 0 BC557B
C7 N005 N004 0.5µ
Q7 V+ N010 N014 0 BC547B
R11 V+ N010 8.6k
R18 N014 0 1k
C8 N011 NC_01 1µ
C10 N003 NC_02 1µ
XU1 N006 N007 V+ V- out LT1001
R16 N001 N005 330
C9 0 N006 0.006µ
R8 N006 N001 120
C4 out N001 0.01µ
R10 N007 0 100k
R12 out N007 15k
R13 N005 0 62k
.model NPN NPN
.model PNP PNP
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.bjt
;tran 1m
;ac dec 10 1 1Meg
.tran 0 1.4m 1m
;ac dec 100 1 100k
.lib LTC.lib
.backanno
.end
