* C:\Users\rohan\OneDrive - International Institute of Information Technology (1)\Sem6\EW-2\aduio_amp\EW2_Audio_Amp\made by rohan.asc
Q2 N004 N008 N015 0 BC547B
Q1 N003 N007 N015 0 BC547B
QB N015 N019 0 0 BC547B
QA N019 N019 0 0 BC547B
Rref N019 N018 1k
V2 N001 0 15
Vin+ N012 0 SINE(0 30m 20k) AC 1 0
Q3 N003 N003 N001 0 BC557B
Q4 N004 N003 N001 0 BC557B
V1 N018 0 15
C2 N007 N012 100µ
R3 N007 0 100k
R4 N001 N007 100k
R5 N001 N008 100k
R6 N008 0 100k
Q5 N005 N010 N013 0 BC547B
R7 N002 N005 4.5k
V3 N002 0 15
C4 OUT N006 4.7µ
C1 N010 N009 1µ
R11 N009 0 1Meg
C5 N009 N004 1µ
Q6 N006 N011 N014 0 BC547B
R8 N014 0 1k
C6 N011 N005 100µ
R12 N002 N006 3.6k
R15 N013 0 1k
R13 N006 N011 1Meg
R9 N005 N010 1Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0.1m
;ac dec 500 1 100Meg
.backanno
.end
